US06774130B2
A 40% aqueous solution of methylamine (10 ml) was added to a solution of (R)-1-(5-acetoxyhexyl)-8-bromo-7-ethoxymethyl-3-methylxanthine (0.450 g) in dimethylsulfoxide (20 ml). After heating at 70° C. for 6 hours, the mixture was treated with water (50 ml) and extracted with ethyl acetate (3×50 ml). The combined extracts were washed with water (2×30 ml), dried over magnesium sulfate and concentrated under reduced pressure. The residue was purified by flash chromatography on silica gel eluting with 10% methanol-ethyl acetate to provide (R)-1-(5-acetoxyhexyl)-7-ethoxymethyl-3-methyl-8-methylaminoxanthine (0.32 g).

reactant | methylamine | 10 ml | CN | CH5N
reactant | (R)-1-(5-acetoxyhexyl)-8-bromo-7-ethoxymethyl-3-methylxanthine | 0.450 g | C(C)(=O)O[C@@H](CCCCN1C(=O)N(C=2N=C(N(C2C1=O)COCC)Br)C)C | C17H25BrN4O5
reactant | water | 50 ml | O | H2O
solvent | dimethylsulfoxide | 20 ml | CS(=O)C | C2H6OS
product | (R)-1-(5-acetoxyhexyl)-7-ethoxymethyl-3-methyl-8-methylaminoxanthine | 0.32 g | C(C)(=O)O[C@@H](CCCCN1C(=O)N(C=2N=C(N(C2C1=O)COCC)NC)C)C | C18H29N5O5
